US07157464B2
Synthesis of 1-[4-(4-Chloro-3-isopropoxy-phenyl)-piperazin-1-yl]-2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(4-Chloro-3-isopropoxy-phenyl)-piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 7.21 (d, 1H), 6.71 (s,1H), 6.53 (d, 1H), 5.38 (s, 2H), 4.66 (m, 1H), 3.58 (m, 4H), 3.25 (m, 2H), 3.15 (m, 2H), 2.18 (s, 3H), 1.26 (d, 6H) ppm; MS (ES) M+H expected=479.1, found=479.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(4-Chloro-3-isopropoxy-phenyl)-piperazine | ClC1=C(C=C(C=C1)N1CCNCC1)OC(C)C | C13H19ClN2O
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 1-[4-(4-Chloro-3-isopropoxy-phenyl)-piperazin-1-yl]-2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1C)Cl)C(F)(F)F)=O)OC(C)C | C20H23Cl2F3N4O2
